US07517902B2
A solution of 7 g of 4-cyano-2,3-difluorophenyl trifluoromethanesulfonate in 400 mL of dioxane is admixed at ambient temperature with 8.67 g of N-Boc 4-amino-3-fluorophenylboronic acid, 7.235 g of sodium carbonate in solution in 100 mL of distilled water, and then 3.38 g of tetrakistriphenylphosphinepalladium. The reaction mixture is heated at 90° C. for 3 h and then concentrated to dryness under reduced pressure. The solid obtained is taken up in ethyl acetate; this organic phase is washed a number of times with distilled water and then with saturated sodium chloride solution, dried over magnesium sulfate and then concentrated to dryness under reduced pressure. The solid obtained is chromatographed on a silica column (eluent: cyclohexane/ethyl acetate, 90/10 by volume). Evaporation to dryness under reduced pressure of the fractions containing the expected product gives 7.89 g of tert-butyl(4′-cyano-3,2′,3′-trifluorobiphenyl-4-yl)carbamate in the form of a cream-white solid, whose characteristics are as follows:

reactant | 4-cyano-2,3-difluorophenyl trifluoromethanesulfonate | 7 g | FC(S(=O)(=O)OC1=C(C(=C(C=C1)C#N)F)F)(F)F | C8H2F5NO3S
reactant | N-Boc 4-amino-3-fluorophenylboronic acid | 8.67 g | C(=O)(OC(C)(C)C)NC1=C(C=C(C=C1)B(O)O)F | C11H15BFNO4
reactant | sodium carbonate | 7.235 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 400 mL | O1CCOCC1 | C4H8O2
solvent | water | 100 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakistriphenylphosphinepalladium | 3.38 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl(4′-cyano-3,2′,3′-trifluorobiphenyl-4-yl)carbamate | 7.89 g | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=C(C(=C(C=C1)C#N)F)F)F)=O | C18H15F3N2O2
